US07253198B2
To an ice-cooled solution of 4-chloro-1-butanesulfonyl chloride (D20) (43 g, 225 mmol, 1 equiv) in CH2Cl2 (350 ml) was slowly added aqueous ammonia solution (25%, 140 ml). The resulting mixture was stirred at room temperature for 16 h then concentrated in vacuo. The residue was diluted with AcOEt and washed with brine. The organic phase was dried over MgSO4 and concentrated in vacuo to give crude 3-chloro-1-butanesulfonamide (D21b) (31 g, 88%).

reactant | 4-chloro-1-butanesulfonyl chloride | 225 mmol, 43 g, 1 equiv | ClCCCCS(=O)(=O)Cl | C4H8Cl2O2S
reactant | ammonia | 140 ml | N | H3N
reactant | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-1-butanesulfonamide | 31 g, 88% | ClC(CCS(=O)(=O)N)C | C4H10ClNO2S
